US07825080B2
A 4 N aqueous sodium hydroxide solution (120 mL) was added to a suspension of olanexidine hydrochloride (40 g) in water (360 mL), and the mixture was stirred for 90 minutes at 25° C. The crystals obtained were filtered off by suction filtration, washed with water (500 mL), and then resuspended in water (500 mL). The suspension was stirred for 5 minutes at room temperature (approximately 25° C.), and the crystals were filtered off by suction filtration, and then washed with water (500 mL). This operation (washing) was repeated once more. The crystals obtained (wet weight: 127 g) were dissolved in methanol (200 mL), and then water (60 mL) was added. The resulting emulsion was left for 12 hours at room temperature, and then the crystals precipitated were filtered off by suction filtration. The crystals were dried under reduced pressure at room temperature, whereby free olanexidine (32 g) was obtained.

reactant | sodium hydroxide | 4 N, 120 mL | [OH-].[Na+]
reactant | olanexidine hydrochloride | 40 g | CCCCCCCC/N=C(\N)/N=C(\N)/NCC=1C=CC(=C(C1)Cl)Cl.Cl
solvent | water | 360 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 60 mL | O | H2O
product | olanexidine | 32 g | CCCCCCCC/N=C(\N)/N=C(\N)/NCC=1C=CC(=C(C1)Cl)Cl | C17H27Cl2N5
